US05994270
2-(1,1-Dimethylethoxy)-N-ethyl-1-naphthalenecarboxamide.
A solution of 1.3M s-BuLi in cyclohexane (34 mL, 44 mmol) was added dropwise to a -78° C. cooled solution of N-ethyl-1-naphthalenecarboxamide (20 mmol) and TMEDA (6.0 mL, 40 mmol) in THF (100 mL). After 30 min, MgBr2.Et2O (15.5 g, 60 mmol) was added portion wise, and the reaction was briefly warmed to ambient temperature then was recooled to -78° C. After 1 h at -78° C., t-butylperoxy benzoate (4.3 g, 22 mmol) was added. The resulting reaction was warmed to -30° C. and worked up in the usual manner, then was purified by chromatography with 3:7 ethyl acetate/hexanes to afford 1.7 g of desired compound as a white solid, a 33% yield. m.p. 126-127° C.

reactant | s-BuLi | 1.3M | [Li]C(C)CC
reactant | cyclohexane | 44 mmol, 34 mL | C1CCCCC1 | C6H12
reactant | N-ethyl-1-naphthalenecarboxamide | 20 mmol | C(C)NC(=O)C1=CC=CC2=CC=CC=C12 | C13H13NO
reactant | TMEDA | 40 mmol, 6.0 mL | CN(C)CCN(C)C | C6H16N2
reactant | MgBr2 | [Mg+2].[Br-].[Br-]
reactant | Et2O | 60 mmol, 15.5 g | CCOCC | C4H10O
reactant | t-butylperoxy benzoate | 22 mmol, 4.3 g | C(C1=CC=CC=C1)(=O)OOOC(C)(C)C | C11H14O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-(1,1-Dimethylethoxy)-N-ethyl-1-naphthalenecarboxamide | 1.7 g, 33% yield | CC(C)(OC1=C(C2=CC=CC=C2C=C1)C(=O)NCC)C | C17H21NO2
